Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old female who complains of s/p Fall, 
Transfer. The patient is transferred from ___. She 
presented status post fall at 4 AM. She was diagnosed with right 
9 through 12 rib fractures. There is a
question of syncope. She was hemodynamically stable. She had a 
head CT and a neck CT that were negative. She has right hip pain 
and right knee pain. She received fentanyl and Ativan. There is 
question of hemothorax but no evidence of
pneumothorax.

 
Past Medical History:
PMH:
HLD, Osteoporosis, GERD, frequent falls, uterine cancer

PSH:
Hysterectomy, R hip pinning
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
VS: Temp: 97.5 BP:130/72  HR:88 O2:18 O2%92   
Constitutional: In pain with movement
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Chest: Clear to auscultation right chest wall tenderness
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: Right knee contusion with minimal tenderness.
There is minimal right hip tenderness. Right lower extremity
is neurovascular intact and there is no other evidence of
trauma Back: Nontender
Extremities: Nontender, no evidence of trauma. Neurovascular
intact. Normal pulses.
Pelvis: Stable.
Neuro: Speech fluent A/O X 3
CN ___
intact
Normal sensory, normal motor.
Normal cerebellar function, downgoing toes, DTRs normal

 
___ Results:
IMAGING:

___: CXR:
Portable AP upright view the chest provided.  In this patient 
with multiple known right rib fractures, there is no evidence of 
right pleural effusion or pneumothorax.  There is no focal 
consolidation or signs of edema.  Cardiomediastinal silhouette 
appears grossly unremarkable.  Known rib fractures better 
assessed on CT.  Degenerative changes at the right shoulder 
noted. 

___: KNEE (AP, LAT & OBLIQUE) RIGHT:
No acute fracture, dislocation or joint effusion.  Mild 
degenerative disease.

___: CXR:
Compared to chest radiographs since ___ most recently ___. 
  
Small right pleural effusion or right basal atelectasis is new.  
No 
pneumothorax.  Left lung clear.  Heart size normal. 

___: CXR:
Comparison to ___.  New minimal parenchymal opacity at 
the right 
lung bases, combines to a minimal right pleural effusion.  The 
effusion is 
better seen on the lateral than on the frontal view.  There is 
no evidence of pneumothorax.  Stable appearance of the cardiac 
silhouette and of the left lung. 

LABS:

___ 06:39PM   LACTATE-2.2*
___ 06:30PM   GLUCOSE-164* UREA N-16 CREAT-0.7 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-96 TOTAL CO2-28 ANION GAP-12
___ 06:30PM   CALCIUM-8.7 PHOSPHATE-4.0 MAGNESIUM-2.1
___ 06:30PM   WBC-6.5 RBC-4.06 HGB-12.1 HCT-36.1 MCV-89 
MCH-29.8 MCHC-33.5 RDW-14.8 RDWSD-48.2*
___ 06:30PM   PLT COUNT-145*
___ 06:30PM   ___ PTT-25.4 ___
___ 10:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F transferred from ___ s/p 
unwitnessed fall. Per EMS report, pt had an unwitnessed fall 
while at home, with a possible syncopal episode.  CT showed R 
rib ___ fx with small R hemothorax and was transferred to ___ 
for further work-up.  At ___, she was HD stable and 
maintaining O2sat >95% with adequate respirations. She was 
admitted to ___ for closer resp monitoring. When appropriate 
patient was transferred to the floor.

She initially received acetaminophen with IV morphine PRN and 
then pain medication as later converted to oral oxycodone with 
prn acetaminophen. The patient was alert and oriented throughout 
hospitalization.  She remained stable from a cardiovascular and 
pulmonary standpoint; vital signs were routinely monitored. Good 
pulmonary toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient tolerated a 
regular diet and intake and output were closely monitored. The 
patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient's blood counts 
were closely watched for signs of bleeding, of which there were 
none. The patient received subcutaneous heparin and ___ dyne 
boots were used during this stay and was encouraged to get up 
and ambulate as early as possible. 

The patient received subcutaneous heparin and venodyne boots 
were used during this stay; was encouraged to get up and 
ambulate as early as possible.

The patient worked with Physical Therapy and it was recommended 
she be discharged to rehab to continue her recovery.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
___ instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 20 mg PO QPM 
2. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take lowest effective dose, wean as tolerated. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 8.6 mg PO BID:PRN Constipation  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Fall
-Right ___ rib fractures
-Small right hemothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
a fall and were found to have multiple right-sided rib fractures 
as well as a small, associated hemothorax (an accumulation of 
blood within the lung lining space).  You were monitored in the 
Intensive Care Unit (ICU) to ensure that your pain was managed 
well and that you were breathing comfortably, and then you were 
transferred to the floor after remaining stable.  Your rib 
fractures and hemothorax will heal on their own.  Please obtain 
a chest x-ray approximately one hour prior to your scheduled 
___ appointment in the Acute Care Surgery clinic.

You have worked with Physical Therapy and it is recommended that 
you be discharged to rehab to improve your strength before 
returning home.  You are now ready to be discharged from the 
hospital.  Please note the following discharge instructions:

* Your injury caused right-sided ___ rib fractures which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 

 
Followup Instructions:
___